US06552017B1
4-((6bR,10aS)-3-methyl-2,3,6b,9,10,10a-hexahydro-1H-pyrido[3′,4′:4,5]pyrrolo[1,2,3-de]quinoxalin-8(7H)-yl)-1-(4-pyridinyl)-1-butanone hydrochloride
The title compound was prepared from addition of the of 4-chloro-1-(4-pyridyl)butan-1-one to 3-methyl-2,3,6b,7,8,9,10,10a-octahydro-1H-pyrido[3′,4′:4,5]pyrrolo[1,2,3-de]quinoxaline following General procedure A of Example 197. 1H NMR (300 MHz, CDCl3) δ 8.79 (dd, J=4.4 Hz, 1.8 Hz, 2H), 7.74 (dd, J=4.4 Hz, 1.4 Hz, 2H), 6.64 (dd, J=7.4 Hz, 7.6 Hz, 1H),6.49 (d, J=6.9 Hz, 1H), 6.39 (d, J=7.7 Hz, 1H), 3.54-3.62 (m, 1H), 3.23-3.31 (m, 2H), 3.13-3.17 (m, 1H), 2.95-3.03 (m, 2H), 2.85 (s, 3H), 2.76-2.84 (m, 2H), 2.57-2.60 (m, 1H), 2.31-2.41 (m, 1H), 2.22 (td, J=11.7 Hz, 2.9 Hz, 1H), 1.92-2.02 (m, 3H),1.83-1.88 (m, 1H), 1.66-1.76 (m, 2H) ppm. MS (CI, NH3) m/e 376 (base, M+H+).

reactant | 4-chloro-1-(4-pyridyl)butan-1-one | ClCCCC(=O)C1=CC=NC=C1 | C9H10ClNO
reactant | 3-methyl-2,3,6b,7,8,9,10,10a-octahydro-1H-pyrido[3′,4′:4,5]pyrrolo[1,2,3-de]quinoxaline | CN1CCN2C=3C(=CC=CC13)C1C2CCNC1 | C14H19N3
reactant | NH3 | N | H3N
product | 4-((6bR,10aS)-3-methyl-2,3,6b,9,10,10a-hexahydro-1H-pyrido[3′,4′:4,5]pyrrolo[1,2,3-de]quinoxalin-8(7H)-yl)-1-(4-pyridinyl)-1-butanone hydrochloride | Cl.CN1CCN2C=3C(=CC=CC13)[C@H]1[C@@H]2CCN(C1)CCCC(=O)C1=CC=NC=C1 | InChI=1S/C23H28N4O.ClH/c1-25-14-15-27-20-9-13-26(12-3-6-22(28)17-7-10-24-11-8-17)16-19(20)18-4-2-5-21(25)23(18)27;/h2,4-5,7-8,10-11,19-20H,3,6,9,12-16H2,1H3;1H/t19-,20-;/m0./s1
